US07915250B2
6-({3-[(ethylamino)methyl]-3-fluoroazetidin-1-yl}carbonyl)-2,3-difluoro-N-(2-fluoro-4-iodophenyl)aniline
To the 1,1-dimethylethyl [{1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-fluoroazetidin-3-yl]methyl}ethylcarbamate (19.0 mg, 0.031 mmol) in acetonitrile (1.0 mL) added a solution 4.0N hydrogen chloride in dioxane (1.0 mL). After 1.5 hr the solution was concentrated in vacuo. The residue was purified by preparative reverse phase HPLC to afford the title compound (4.30 mg, 27%). 1H NMR (400 MHz, CDCl3): 8.25 (s, 1H), 7.33 (dd, 1H), 7.33-7.25 (m, 1H), 7.18-7.14 (m, 1H), 6.84-6.77 (m, 1H), 6.63-6.58 (m, 1H), 4.33-4.05 (br m, 4H), 3.07-2.95 (br m, 2H), 2.65 (q, 2H), 1.08 (t, 3H); MS (EI) for C19H18F4IN3O: 508 (MH+).

reactant | 1,1-dimethylethyl [{1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-fluoroazetidin-3-yl]methyl}ethylcarbamate | 0.031 mmol, 19.0 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(F)CN(C(OC(C)(C)C)=O)CC)NC1=C(C=C(C=C1)I)F | C24H26F4IN3O3
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 6-({3-[(ethylamino)methyl]-3-fluoroazetidin-1-yl}carbonyl)-2,3-difluoro-N-(2-fluoro-4-iodophenyl)aniline | 4.30 mg, 27% | C(C)NCC1(CN(C1)C(=O)C1=CC=C(C(=C1NC1=C(C=C(C=C1)I)F)F)F)F | C19H18F4IN3O
